US07151105B2
2-[2-Chloro-4-(2-{2-cyclopentyl-5-[(1,3-dimethyl-1H-1,2,4-triazol-5-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)phenyl]-2-methylpropanenitrile
The title compound was prepared analogously to example A(1): where 2-{2-chloro-4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-phenyl}-2-methyl-propionitrile.from step 5 below, was substituted in place of 6-[2-(3-chloro-5-ethyl-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione and 2,5-dimethyl-2H-[1,2,4]triazole-3-carbaldehyde was substituted instead of 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde in that example. 1H NMR (300 MHz, DMSO-d6): δ 1.47–1.74 (m, 8 H), 1.79 (s, 6 H), 2.01–2.11 (m, 8 H), 2.36–2.42 (m, 1 H), 2.56 (d, J=16 Hz, 1 H), 2.60–2.66 (m, 2 H), 2.77 (d, J=16 Hz, 1 H), 3.53 (d, J=16 Hz, 1 H), 3.62 (d, J=16 Hz, 1 H), 7.25 (dd, J=8.2, 1.8 Hz, 1 H), 7.4 (d, J=1.8 Hz, 1 H), 7.45 (d, J=8.2 Hz, 1 H). Anal. Calcd. For C27H33ClN4O3.0.25 H2O: C, 64.66; H, 6.73; N, 11.17. Found: C, 64.88; H, 6.74; N, 10.86. ESIMS (MH+): 498.

reactant | 2-{2-chloro-4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-phenyl}-2-methyl-propionitrile | ClC1=C(C=CC(=C1)CCC1(OC(CC(C1)=O)=O)C1CCCC1)C(C#N)(C)C | C22H26ClNO3
reactant | 6-[2-(3-chloro-5-ethyl-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=C(C1OC)CC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
reactant | 2,5-dimethyl-2H-[1,2,4]triazole-3-carbaldehyde | CN1N=C(N=C1C=O)C | C5H7N3O
reactant | 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
solvent | H2O | O | H2O
product | 2-[2-Chloro-4-(2-{2-cyclopentyl-5-[(1,3-dimethyl-1H-1,2,4-triazol-5-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)phenyl]-2-methylpropanenitrile | ClC1=C(C=CC(=C1)CCC1(OC(C(=C(C1)O)CC1=NC(=NN1C)C)=O)C1CCCC1)C(C#N)(C)C | C27H33ClN4O3
